US07691850B2
c) 6-Bromo-2,3-dihydro-7H-[1,4]dioxino[2,3-f]quinolin-10-one
5-[(7-Bromo-2,3-dihydro-benzo[1,4]dioxin-6-ylamino)-methylene]-2,2-dimethyl-[1,3]dioxane-4,6-dione (22.9 g, 59.6 mmol) was added portionwise to refluxing Dowtherm A® (45 mL) over 3 minutes. After a further 3 minutes at reflux the mixture was cooled to room temperature. Ethyl acetate/hexane (10 mL/20 mL) was added and a black solid isolated by filtration. This residue was dissolved in hot methanol (400 mL) and filtered through Keiselguhr. Water (800 mL) was added and the mixture stored at 5° C. overnight. Filtration and drying afforded a pale yellow solid (10.3 g, 61%).

reactant | 5-[(7-Bromo-2,3-dihydro-benzo[1,4]dioxin-6-ylamino)-methylene]-2,2-dimethyl-[1,3]dioxane-4,6-dione | 59.6 mmol, 22.9 g | BrC=1C(=CC2=C(OCCO2)C1)NC=C1C(OC(OC1=O)(C)C)=O | C15H14BrNO6
reactant | Dowtherm A | C1=CC=C(C=C1)C2=CC=CC=C2.C1=CC=C(C=C1)OC2=CC=CC=C2
reactant | Ethyl acetate hexane | 10 mL | C(C)(=O)OCC.CCCCCC
solvent | methanol | 400 mL | CO | CH4O
product | 6-Bromo-2,3-dihydro-7H-[1,4]dioxino[2,3-f]quinolin-10-one | 10.3 g, 61% | BrC=1C=C2C(=C3C(C=CNC13)=O)OCCO2 | C11H8BrNO3
